US07741327B2
A solution of (E)-3-(2-bromo-phenoxy)-4-{1-[1-(2-hydroxy-2-methyl-propyl)-1H-pyrazol-3-ylcarbamoyl]-2-(tetrahydro-pyran-4-yl)-ethylamino}-but-2-enoic acid ethyl ester (250 mg) in tetrahydrofuran (8 mL) was placed in an Emrys Optimizer microwave tube and microwaved at 160° C. for 3 h. The mixture was concentrated in vacuo and the residue was purified by ISCO flash chromatography (RediSep silica 4 g, 30% to 100% ethyl acetate/hexanes) which afforded 2-[4-(2-bromo-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-N-[1-(2-hydroxy-2-methyl-propyl)-1H-pyrazol-3-yl]-3-(tetrahydro-pyran-4-yl)-propionamide (80 mg, 35%) as a light yellow solid: HR-ES-MS (m/z) calculated for C25H31BrN4O5 [M+H]+ 547.1551, observed 547.1551. 1H NMR (300 MHz, DMSO-d6) δ ppm 1.04 (br. s., 3H), 1.06 (br. s., 3H), 1.11-1.48 (m, 3H), 1.53-1.73 (m, 3H), 1.73-1.89 (m, 1H), 3.11-3.31 (m, 2H), 3.72-3.87 (m, 2H), 3.89 (s, 2H), 4.24 (d, J=18.4 Hz, 1H), 4.62 (d, J=18.4 Hz, 1H), 4.66-4.72 (m, 1H), 4.79 (s, 1H), 4.93 (dd, J=10.6, 4.8 Hz, 1H), 6.45 (d, J=2.1 Hz, 1H), 7.22-7.34 (m, 1H), 7.48-7.53 (m, 2H), 7.54 (d, J=2.1 Hz, 1H), 7.79 (d, J=8.2 Hz, 1H), 10.81 (br. s., 1H).

reactant | (E)-3-(2-bromo-phenoxy)-4-{1-[1-(2-hydroxy-2-methyl-propyl)-1H-pyrazol-3-ylcarbamoyl]-2-(tetrahydro-pyran-4-yl)-ethylamino}-but-2-enoic acid ethyl ester | 250 mg | C(C)OC(\C=C(/CNC(CC1CCOCC1)C(NC1=NN(C=C1)CC(C)(C)O)=O)\OC1=C(C=CC=C1)Br)=O | C27H37BrN4O6
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
product | 2-[4-(2-bromo-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-N-[1-(2-hydroxy-2-methyl-propyl)-1H-pyrazol-3-yl]-3-(tetrahydro-pyran-4-yl)-propionamide | 80 mg, 35% | BrC1=C(OC2=CC(N(C2)C(C(=O)NC2=NN(C=C2)CC(C)(C)O)CC2CCOCC2)=O)C=CC=C1 | C25H31BrN4O5
